US08563565B2
(1) Synthesis of 2-fluoro-3-iodo-5-methylpyridine
Diisopropylamine (92 mL) was added to THF (1.2 L), and the mixture was cooled to −18° C. in a nitrogen atmosphere. A 2.69 M solution of n-butyllithium in hexane (224 mL) was added dropwise to the solution. After completion of the dropwise addition, the mixture was warmed to −5° C. with stirring over 20 minutes. The reaction mixture was cooled to −73° C. A solution of 2-fluoro-5-methylpyridine (61 g) in THF (240 mL) was added dropwise to the reaction mixture. The reaction mixture was stirred at −75° C. for 3.5 hours. A solution of iodine (139 g) in THF (24 mL) was added dropwise to the reaction mixture. The reaction mixture was stirred at −75° C. for one hour and 55 minutes. After completion of the reaction, water (220 mL) was added to the reaction mixture at the same temperature. The mixture was stirred at the same temperature for five minutes. The reaction mixture was returned to room temperature, and water (1.2 L) was then added. A solution of sodium thiosulfate pentahydrate (136 g) in water (300 mL), and water (300 mL) were added to the mixture, followed by stirring for 10 minutes. The mixture was extracted with MTBE (1.2 L). The organic layer was washed with brine (500 mL). The combined aqueous layers were extracted with MTBE (1 L). The combined organic layers were dried over anhydrous magnesium sulfate. The desiccant was removed by filtration, and the filtrate was concentrated under reduced pressure. n-heptane was added to the residue, followed by cooling. The precipitated solid was collected by filtration. The residue was washed with n-heptane. The filtrate was cooled, and the precipitated solid was collected by filtration. This operation was repeated five times to give the title compound (109.69 g).

reactant | Diisopropylamine | 92 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-fluoro-5-methylpyridine | 61 g | FC1=NC=C(C=C1)C | C6H6FN
reactant | iodine | 139 g | II | I2
reactant | sodium thiosulfate pentahydrate | 136 g | O.O.O.O.O.S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | hexane | 224 mL | CCCCCC | C6H14
solvent | THF | 240 mL | C1CCOC1 | C4H8O
solvent | THF | 24 mL | C1CCOC1 | C4H8O
solvent | water | 300 mL | O | H2O
solvent | water | 300 mL | O | H2O
solvent | water | 1.2 L | O | H2O
solvent | water | 220 mL | O | H2O
solvent | THF | 1.2 L | C1CCOC1 | C4H8O
product | 2-fluoro-3-iodo-5-methylpyridine | 109.69 g | FC1=NC=C(C=C1I)C | C6H5FIN
